US06590118B1
A mixture of 4-hydroxyphthalic acid dimethyl ester (1.23 g, 5.95 mmol), o-fluoronitro-benzene (0.81 ml, 7.64 mmol), and potassium carbonate (1.66 g, 12 mmol) in dry DMF (25 ml) was heated at 100° C. for 1 hour. The mixture was cooled to room temperature, filtered and the filtrate evaporated to dryness in vacuo to give 4-(2-nitrophenoxy)phthalic acid dimethyl ester as a yellow oil (yield: 1.97 g, (100%)). 1H—NMR (CDCl3) in ppm: δ 3.9 (6H, 2xs); 7.1-7.2 (2H,m); 7.2 (1H,d); 7.3-7.4 (1H,m); 7.6-7.7 (1H,m); 7.84 (1H,d); 8.03 (1H, d.d.).

reactant | 4-hydroxyphthalic acid dimethyl ester | 5.95 mmol, 1.23 g | COC(C=1C(C(=O)OC)=CC(=CC1)O)=O | C10H10O5
reactant | o-fluoronitro-benzene | 7.64 mmol, 0.81 ml | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 12 mmol, 1.66 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 4-(2-nitrophenoxy)phthalic acid dimethyl ester | COC(C=1C(C(=O)OC)=CC(=CC1)OC1=C(C=CC=C1)[N+](=O)[O-])=O | C16H13NO7
